US07847074B2
1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(pyrimidine-5-yl-ethynyl)-benzyl]-benzene
37 mg copper iodide, 67 mg bis-(triphenylphosphine)-palladium dichloride and 0.46 mL triethylamine are added to an oxygen-free solution of 0.35 g 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene and 0.2 g 5-bromo-pyrimidine in 1 mL dimethylformamide. The solution is stirred under argon atmosphere at 60° C. for 16 h. The reaction mixture is filtered through Celite and evaporated down. The residue is chromatographed on silica gel (dichloromethane/methanol 1:0→9:1).

reactant | triethylamine | 0.46 mL | C(C)N(CC)CC | C6H15N
reactant | oxygen | O=O | O2
reactant | 1-chloro-4-(β-D-glucopyranos-1-yl)-2-(4-ethynyl-benzyl)-benzene | 0.35 g | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#C | C21H21ClO6
reactant | 5-bromo-pyrimidine | 0.2 g | BrC=1C=NC=NC1 | C4H3BrN2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 37 mg | [Cu](I)I
catalyst | bis-(triphenylphosphine)-palladium dichloride | 67 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-Chloro-4-(β-D-glucopyranos-1-yl)-2-[4-(pyrimidine-5-yl-ethynyl)-benzyl]-benzene | ClC1=C(C=C(C=C1)[C@]1(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C#CC=1C=NC=NC1 | C25H23ClN2O6
